Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([H:8])([H:9])([H:10])[H:11].[C:2]1[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C@:5]1([C:6]#[N:7])[H:16]>>[C:1]([C@@:2]1([H:11])[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C@:5]1([C:6]#[N:7])[H:16])([H:8])([H:9])[H:10],2.991970840804811
[C:1]([O:2][C:6](=[C:5]=[C:3]=[O:4])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3](=[O:4])[C:5]#[C:6][H:10])([H:7])([H:8])[H:9],56.273865448456114
[C:1](/[C:3](=[N:2]/[C:5](=[O:6])[H:12])[N:4]([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9],123.8357057440256
[C:1]([C:2](=[C:3]([H:9])[H:11])[O:4][H:12])([H:5])([H:6])[H:7].[H:8][H:10]>>[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([O:4][H:12])[H:8])([H:5])([H:6])[H:7],78.96295647914779
[C:1]([O:2][C:5](=[O:6])[H:14])([H:7])([H:8])[H:9].[C:3](=[C:4]([H:11])[H:12])([H:10])[H:13]>>[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9],84.25099331731991
[C:1]([C:2](/[C:3](=[C:4]1/[N:5]([H:12])[O:6]1)[H:11])=[C:7]([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2]1=[C:3]([H:11])/[C:4](=[N:5]/[H:12])[O:6][C:7]1([H:13])[H:14])([H:8])([H:9])[H:10],4.878251362691415
[N:1]([C:2](=[O:3])[C:4]([O:5][C:6](=[O:7])[H:12])([H:10])[H:11])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[O:7][C:6](=[O+:5][C-:4]([H:10])[H:11])[H:12])([H:8])[H:9],74.29382178162729
[C:1]([C:2]([N:5]([C:4](=[O:3])[C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10],59.0675296005873
[O:1]=[C:4]([C:3](=[C:2]=[N:7][C:6](=[N:5][H:10])[H:11])[H:8])[H:9]>>[O:1]=[c:2]1[c:3]([H:8])[c:4]([H:9])[n:5]([H:10])[c:6]([H:11])[n:7]1,73.68397052141631
[N:1]#[C:2][c:3]1[c:4]([H:8])[n:5]([H:9])[n:6][n:7]1>>[N:1]#[C:2][C:3]#[C:4][H:8].[N:5](=[N+:6]=[N-:7])[H:9],69.12159751092179
[O:1]([C:2]([C:3]#[C:4][C:5]([O:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C@@:3]1([H:12])[C:4][C:5]([H:10])([H:11])[O:6]1)([H:8])[H:9])[H:7],85.5633554920385
[N:3](=[C:4]([H:10])[H:11])[H:9].[O:1]=[C:2]([C:6]1=[C:7]([H:14])[C:5]1([H:12])[H:13])[H:8]>>[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8],44.42052585824971
[H:10][H:13].[O:1]([C:2](=[C:3]=[C:4]1[C:5]([H:11])([H:12])[C:6]1=[O:7])[H:9])[H:8]>>[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8],41.7835702250239
[C:1]([N:2]=[C:3]=[N:4][H:11])([H:7])([H:8])[H:9].[C:5]=[N:6][H:10]>>[C:1]([N:2](/[C:3](=[N:4]/[H:11])[C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],31.850505415165607
[C:1]([O:2][C:3](=[O:4])[C:5]#[N:6])([H:7])([H:8])[H:9]>>[C-:3]#[O+:4].[C:1]([O:2][C:5]#[N:6])([H:7])([H:8])[H:9],66.1650224613258
[C:1]([C:2]#[C:3][C:4](=[O:5])[N:6]([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]#[C:3]/[C:4]([O:5][H:10])=[N:6]\[H:11])([H:7])([H:8])[H:9],40.1102056198531
[N:1]1([H:8])[C:2](=[O:3])[C:4]([H:9])([H:10])[C:5]1=[C:6]([H:7])[H:11]>>[N:1]([C:2](=[O:3])[C:4]([C:5]#[C:6][H:11])([H:9])[H:10])([H:7])[H:8],93.92496435974931
[N:1]#[C:2][C:3](=[C:4]([O-:5])[H:8])[N+:7]#[N:6]>>[C-:4]#[O+:5].[N:1]#[C:2][C:3](=[N+:7]=[N-:6])[H:8],63.2716392444343
[C:2]1([H:9])([H:10])[C@@:3]([C:5]#[N:6])([H:11])[N:4]1[H:13].[N:1]([H:7])([H:8])[H:12]>>[N:1]([C:2]([C@@:3]([N:4]([H:12])[H:13])([C:5]#[N:6])[H:11])([H:9])[H:10])([H:7])[H:8],51.3553348312069
[C:1]([C:2]([n:3]1[c:4]([H:13])[c:5]([H:14])[n:6][c:7]1[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](/[N:3]=[C:4](/[C@:5]1([H:14])[N:6]=[C:7]1[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],97.02424295093799
[C:1]([C:2]1=[C:3]([H:11])[N:7]1[C:5](=[O:4])[O:6][H:12])([H:8])([H:9])[H:10]>>[C:1]([c:2]1[c:3]([H:11])[o:4][c:5]([O:6][H:12])[n:7]1)([H:8])([H:9])[H:10],15.23454706047211
[H:9][H:12].[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:10])=[C:5]([H:11])[C:6]([H:13])([H:14])[N:7]1[H:15]>>[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[C:6]([H:13])([H:14])[N:7]1[H:15],79.44147312896712
[C:1]([C@@:2]1([H:10])[C:5]([H:14])([H:15])[O:6]1)([H:7])([H:8])[H:9].[C:3]([H:11])[H:12].[O:4]([H:13])[H:16]>>[C:1]([C:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],19.8629780757571
[O:1]([C:2]([C:3]([O:4]/[C:5](=[N:6]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:3](=[O:4])([H:10])[H:11].[O:1]([C:2](/[C:5](=[N:6]/[H:13])[H:12])([H:8])[H:9])[H:7],92.63392623543301
[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13]>>[C:1]([C@@:6]1([H:13])[C@:4]([C:3](=[C:2])[H:10])([H:11])[N:5]1[H:12])([H:7])([H:8])[H:9],76.4234037361885
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C@:2]1([H:11])[C:5]([C:3]([C:4]([H:13])([H:14])[H:15])([H:10])[H:12])=[N:6]1)([H:7])([H:8])[H:9],92.29947869985159
[C:1]([C:2]1=[C:5]=[N:6][C:3]([H:10])([H:11])[O:4]1)([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([C:5]#[N:6])[C:3]([H:10])([H:11])[O:4]1)([H:7])([H:8])[H:9],42.0506587099178
